US09227901B2
N-((1R,2S)-1-benzyl-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)pyrrolidin-2-one
Chlorocyclooctadiene rhodium(I) dimer (3.70 mg, 15.0 μmol of Rh), Josiphos SL-J216-2 (10.16 mg, 16.0 μmol), and N-(1-benzyl-7-methoxy-3,4-dihydronaphthalen-2-yl)pyrrolidin-2-one (500.8 mg, 1.50 mmol) were combined in a glass-lined metal reactor, and the vessel was inerted with argon. Degassed methanol (5.0 ml) was added, and the mixture was agitated under 20 psi of argon at 50° C. for 20 min. The vessel was pressurized with 90 psig of hydrogen and stirred at 100° C. for 45 hrs. HPLC analysis indicated 99.8% conversion and 90.7% ee. The mixture was concentrated and diluted with water to yield 415 mg (yield: 82%) of the title compound.

reactant | Josiphos SL-J216-2 | 16.0 μmol, 10.16 mg | C[C@H]([C]1[CH][CH][CH][C]1P(C2=CC=CC3=CC=CC=C32)C4=CC=CC5=CC=CC=C54)PC | C28H25P2
reactant | N-(1-benzyl-7-methoxy-3,4-dihydronaphthalen-2-yl)pyrrolidin-2-one | 1.50 mmol, 500.8 mg | C(C1=CC=CC=C1)C1=C(CCC2=CC=C(C=C12)OC)N1C(CCC1)=O | C22H23NO2
reactant | hydrogen | [H][H] | H2
catalyst | Chlorocyclooctadiene rhodium(I) | [Rh+].ClC1=CC=CCCCC1
solvent | methanol | 5.0 ml | CO | CH4O
product | N-((1R,2S)-1-benzyl-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)pyrrolidin-2-one | 415 mg, yield: 82% | C(C1=CC=CC=C1)[C@H]1[C@H](CCC2=CC=C(C=C12)OC)N1C(CCC1)=O | C22H25NO2
